US08710043B2
Step 2. (S)-4-(((3-Fluoropyridin-2-yl)(4-(trifluoromethyl)phenyl)methyl)carbamoyl)-2-nitrophenyl Acetate
To a solution of (S)—N-((3-fluoropyridin-2-yl)(4-(trifluoromethyl)phenyl)methyl)-4-hydroxy-3-nitrobenzamide (83 mg, 0.191 mmol) and DCM (5 mL) were added acetic anhydride (0.2 mL, 2.120 mmol) and DIPEA (0.15 mL, 0.861 mmol). After stirring for 45 min, the reaction was quenched with water and after stirring for 3 days, the aqueous solution was filtered to give the title compound as a yellow solid. The resulting product was used in the next step without further purification. MS (ESI pos. ion) m/z: 478.1 (M+H).

reactant | (S)—N-((3-fluoropyridin-2-yl)(4-(trifluoromethyl)phenyl)methyl)-4-hydroxy-3-nitrobenzamide | 0.191 mmol, 83 mg | FC=1C(=NC=CC1)[C@@H](NC(C1=CC(=C(C=C1)O)[N+](=O)[O-])=O)C1=CC=C(C=C1)C(F)(F)F | C20H13F4N3O4
reactant | acetic anhydride | 2.120 mmol, 0.2 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | DIPEA | 0.861 mmol, 0.15 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | (S)-4-(((3-Fluoropyridin-2-yl)(4-(trifluoromethyl)phenyl)methyl)carbamoyl)-2-nitrophenyl Acetate | C(C)(=O)OC1=C(C=C(C=C1)C(N[C@@H](C1=CC=C(C=C1)C(F)(F)F)C1=NC=CC=C1F)=O)[N+](=O)[O-] | C22H15F4N3O5
